US06528655B1
Preparation of N-(Nα-Caffeoyl-Nδ-butoxycarbonyl-L-ornithyl)dopamine (Compound No. 51)
N-[Nα-(9-fluorenylmethoxycarbonyl)-Nδ-butoxycarbonyl-L-ornithyl]dopamine (1.0 g, 1.75 mmol) was deprotected following the indications of general procedure G. The free amino groups thus obtained were coupled with caffeic acid (472 mg, 2.6 mmol) following the general procedure D. The crude material was purified by flash chromatography using a solvent gradient from 30% to 90% EtOAc/CH2Cl2/1% AcOH. The desired product was obtained as white crystals (370 mg, 40%).

reactant | N-[Nα-(9-fluorenylmethoxycarbonyl)-Nδ-butoxycarbonyl-L-ornithyl]dopamine | 1.75 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCNC(=O)OCCCC)C(=O)NCCC1=CC(O)=C(O)C=C1 | C33H39N3O7
reactant | caffeic acid | 2.6 mmol, 472 mg | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
product | N-(Nα-Caffeoyl-Nδ-butoxycarbonyl-L-ornithyl)dopamine | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)N[C@@H](CCCNC(=O)OCCCC)C(=O)NCCC1=CC(O)=C(O)C=C1 | C27H35N3O8
